US07691882B2
3-(4-(5-(2,6-Diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenoxymethyl)-benzonitrile
To a methanol (6.3 mL) solution of 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (100 mg, 0.36 mmol) described in Manufacturing Example 18-1-1 was added a 2 N sodium hydroxide aqueous solution (180 μL, 0.36 mmol). This mixture was concentrated under a reduced pressure. N,N-dimethylformamide (1.3 mL) and 3-bromomethyl-benzonitrile (58 mg, 0.29 mmol) were added to the residue, which was stirred for 15 minutes at 60° C. This reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:2, then ethyl acetate) to obtain the title compound (24 mg, 17%).

reactant | methanol | 6.3 mL | CO | CH4O
reactant | 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.36 mmol, 100 mg | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)N | C15H14N4O2
reactant | sodium hydroxide | 0.36 mmol, 2 N, 180 μL | [OH-].[Na+]
reactant | 3-bromomethyl-benzonitrile | 0.29 mmol, 58 mg | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | N,N-dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
product | 3-(4-(5-(2,6-Diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenoxymethyl)-benzonitrile | 24 mg, 17% | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(OCC=2C=C(C#N)C=CC2)C=C1)N | C23H19N5O2
